datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([O:2][H:6])[H:5])([H:3])[H:4].[C:7]([H:8])([H:9])[H:10]>>[C:0](=[C:1]([O:2])[H:5])([H:3])[H:4].[H:6][C:7]([H:8])([H:9])[H:10],27.6981
[C:0](#[C:1][C:2](=[C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])[H:8])[H:7])[H:6].[C:12](=[C:13]([C:14]([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:19])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([C:4](=[C:5]([H:10])[H:11])[H:9])([H:8])[C:14]([C:13](=[C:12]([H:17])[H:18])[H:19])([C:15]([H:20])([H:21])[H:22])[C:16]([H:23])([H:24])[H:25])[H:7])[H:6],37.1539
[C:0](=[C:1]([C:2](=[C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])[H:13])[H:12])([H:10])[H:11].[C:20](=[C:21]([C:22]([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:27])([H:25])[H:26]>>[C:0](=[C:1]([C:2]([C:3]([c:4]1[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]1[H:19])[H:14])([H:13])[C:22]([C:21](=[C:20]([H:25])[H:26])[H:27])([C:23](=[C:24]([H:30])[H:31])[H:29])[H:28])[H:12])([H:10])[H:11],69.2452
[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:27])([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[C:30]([H:31])([H:32])[H:33]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([C:7]([C:8]([C:9]([H:28])[H:29])([H:25])[H:26])([H:23])[H:24])([H:21])[H:22])([H:19])[H:20])([H:17])[H:18])([H:15])[H:16])([H:13])[H:14])[H:12])([H:10])[H:11].[H:27][C:30]([H:31])([H:32])[H:33],29.928152
[C:0](#[C:1][C:2]([H:4])([H:5])[H:6])[H:3].[O:7][O:8]>>[C:0](#[C:1][C:2]([H:5])[H:6])[H:3].[H:4][O:7][O:8],178.36392
[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])([H:3])[H:4].[C:8]([H:9])([H:10])[H:11]>>[C:0](=[N:1][C:2]([H:5])([H:6])[H:7])[H:4].[H:3][C:8]([H:9])([H:10])[H:11],40.530408
[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:3])([H:4])[H:5].[O:9][H:10]>>[C:0]([O:1][C:2]([H:6])([H:7])[H:8])([H:4])[H:5].[H:3][O:9][H:10],-3.2664488
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])=[C:5]([C:6]([H:14])([H:15])[H:16])[C:7]([H:17])([H:18])[H:19])[H:10])([H:8])[H:9].[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:12])[H:13])[H:11])[C:5]([C:6]([H:14])([H:15])[H:16])([C:7]([H:17])([H:18])[H:19])[C:20]([c:21]1[c:22]([H:29])[c:23]([H:30])[c:24]([H:31])[c:25]([H:32])[c:26]1[H:33])([H:27])[H:28])[H:10])([H:8])[H:9],31.7147
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])[C:3](=[S:4])[H:11])([H:5])([H:6])[H:7].[S:12]([c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24])[H:19]>>[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[S:4])[H:11])[H:19])([H:5])([H:6])[H:7].[S:12][c:13]1[c:14]([H:20])[c:15]([H:21])[c:16]([H:22])[c:17]([H:23])[c:18]1[H:24],39.748
[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])=[C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[H:12])([H:10])[H:11].[C:22](=[C:23]([C:24]([C:25](=[C:26]([H:32])[H:33])[H:31])[H:30])[H:29])([H:27])[H:28]>>[C:0](=[C:1]([C:2]([C:3](=[C:4]([H:14])[H:15])[H:13])([C:5]([C:6](=[C:7]([H:17])[H:18])[H:16])[C:8](=[C:9]([H:20])[H:21])[H:19])[C:24]([C:23](=[C:22]([H:27])[H:28])[H:29])([C:25](=[C:26]([H:32])[H:33])[H:31])[H:30])[H:12])([H:10])[H:11],61.0446
[C:0](=[C:1]=[C:2]([H:5])[H:6])([H:3])[H:4].[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17]>>[C:0]([C:1]=[C:2]([H:5])[H:6])([H:3])([H:4])[c:7]1[c:8]([H:13])[c:9]([H:14])[c:10]([H:15])[c:11]([H:16])[c:12]1[H:17],-0.08368
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])([H:23])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[C:15]([C:14]([H:23])([H:24])[H:25])([C:16]([H:26])([H:27])[H:28])[c:17]1[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]([H:32])[c:22]1[H:33])[H:6],43.2207
[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:7])([H:8])[H:9].[H:21]>>[C:0]([C:1]1([H:10])[C:2]([H:11])([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]1([H:19])[H:20])([H:8])[H:9].[H:7][H:21],27.34244
[C:0]([C:1]([C:2]([C:3]([C:4]([S:5][H:16])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])[H:9])([H:6])([H:7])[H:8]>>[C:0]([C:1]([C:2]([C:3]([C:4]([S:5][H:16])[H:15])([H:12])[H:13])([H:10])[H:11])([H:9])[H:14])([H:6])([H:7])[H:8],49.9151
[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])=[C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[H:13])([H:11])[H:12].[C:23](=[C:24]([C:25]([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:30])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:14])([H:15])[H:16])([C:4]([c:5]1[c:6]([H:18])[c:7]([H:19])[c:8]([H:20])[c:9]([H:21])[c:10]1[H:22])[H:17])[C:25]([C:24](=[C:23]([H:28])[H:29])[H:30])([C:26]([H:31])([H:32])[H:33])[C:27]([H:34])([H:35])[H:36])[H:13])([H:11])[H:12],49.5804
